US04697012
Step A: Preparation of 2-hydroxy-4-(4-pyridyl)thiazole
A mixture of α-bromo-4-acetylpyridine hydrobromide (140.0 g, 0.50 mol) and potassium thiocyanate (53.4 g, 0.55 mol) in absolute ethanol (1500 mL) was heated to reflux for two hours. To the resulting mixture was added concentrated hydrochloric acid (250 mL) and water (500 mL) and reflux continued for five hours. After cooling, the crystallized solid was collected by filtration and washed with ethanol. The resulting material was suspended in water and neutralized with aqueous sodium bicarabonate to obtain, after filtration and drying, 2-hydroxy-4-(4-pyridyl)thiazole 39.0 g, 44%). mp. 250° C.

reactant | α-bromo-4-acetylpyridine hydrobromide | 0.50 mol, 140.0 g | Br.BrCC(=O)C1=CC=NC=C1
reactant | potassium thiocyanate | 0.55 mol, 53.4 g | [S-]C#N.[K+]
reactant | hydrochloric acid | 250 mL | Cl | ClH
reactant | water | 500 mL | O | H2O
solvent | ethanol | 1500 mL | C(C)O | C2H6O
product | 2-hydroxy-4-(4-pyridyl)thiazole | OC=1SC=C(N1)C1=CC=NC=C1 | C8H6N2OS
